US07265120B2
A mixture of 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione (300 mg), aminoacetamidine dihydrobromide (259 mg) and sodium methoxide (238 mg) in MeOH (3 ml) was stirred for 1.5 hours. Water and EtOAc were added to the reaction mixture. The organic layer was separated, and dried over MgSO4. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography eluted with a mixture of n-hexane and EtOAc. The fractions were concentrated in vacuo to obtain 6-(6-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone (25.6 mg) as white powder.

reactant | 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione | 300 mg | C(C)(C)N1N=C(C=CC1=O)C(C(=O)C1=CC=CC=C1)=O | C15H14N2O3
reactant | aminoacetamidine dihydrobromide | 259 mg | Br.Br.NCC(=N)N
reactant | sodium methoxide | 238 mg | C[O-].[Na+]
reactant | Water | O | H2O
solvent | MeOH | 3 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(6-amino-3-phenyl-2-pyrazinyl)-2-isopropyl-3(2H)-pyridazinone | 25.6 mg | NC1=CN=C(C(=N1)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C17H17N5O
